US07960376B2
To a solution of methyl 3-amino-4-(4-chloro-2-methylbutan-2-ylthio)benzoate (3.11 g, 10.8 mmol) in 2-butanone (150 mL) was added sodium iodide (4.86 g, 32.4 mmol). The reaction was heated to 70° C. and stirred at that temperature for 16 hours. Thin layer chromatography and LCMS analysis of the reaction mixture indicated consumption of starting material. The solvent was removed under reduced pressure and the resulting red slurry was diluted with EtOAc (200 mL). The organic layer was washed with saturated aqueous NaHCO3 (100 mL) and aqueous sodium hydrosulifte (50 mL). The organic layer was dried over Na2SO4 and concentrated in vacuo. The resulting solid was purified by flash column chromatography using a gradient elution of hexanes with 5-70% EtOAc to provide methyl 2,2-dimethyl-2,3,4,5-tetrahydrobenzo-[b][1,4]thiazepine-7-carboxylate (1.82 g, 7.24 mmol, 67.0% yield) as an off white solid. LCMS (+ESI) m/z=252.1 [M+H]+; 1H-NMR (CDCl3) δ 7.48-7.40 (m, 3H), 4.25-4.06 (br s, 1H), 3.88 (s, 3H), 3.25 (m, 2H), 2.00 (m, 2H), 1.33 (s, 6H).

reactant | methyl 3-amino-4-(4-chloro-2-methylbutan-2-ylthio)benzoate | 10.8 mmol, 3.11 g | NC=1C=C(C(=O)OC)C=CC1SC(C)(CCCl)C | C13H18ClNO2S
reactant | sodium iodide | 32.4 mmol, 4.86 g | [I-].[Na+]
solvent | 2-butanone | 150 mL | CC(CC)=O | C4H8O
product | methyl 2,2-dimethyl-2,3,4,5-tetrahydrobenzo-[b][1,4]thiazepine-7-carboxylate | 7.24 mmol, 1.82 g, 67.0% yield | CC1(CCNC2=C(S1)C=CC(=C2)C(=O)OC)C | C13H17NO2S
